US09428508B2
To a solution of N-cyclopentyl-2-nitrobenzenesulfonamide (23 g, 85.2 mmol) in methanol (500 mL) was added palladium on carbon (10%). The mixture was stirred under an atmosphere of hydrogen for 12 hours. The catalyst was removed by filtration and the filtrate was evaporated to afford the product 2-amino-N-cyclopentylbenzenesulfonamide (20 g, yield 97.8%). 1H NMR (400 MHz, CDCl3) δ ppm 7.71-7.74 (dd, 1H, J=1.2 Hz, 8.0 Hz), 7.30-7.34 (m, 1H), 6.75-6.82 (m, 2H), 4.86 (br s, 3H), 3.50-3.53 (m, 1H), 1.67-1.69 (m, 2H), 1.55-1.62 (m, 2H), 1.42-1.50 (m, 2H), 1.22-1.36 (m, 2H).

reactant | N-cyclopentyl-2-nitrobenzenesulfonamide | 85.2 mmol, 23 g | C1(CCCC1)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C11H14N2O4S
solvent | methanol | 500 mL | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 2-amino-N-cyclopentylbenzenesulfonamide | 20 g, yield 97.8% | NC1=C(C=CC=C1)S(=O)(=O)NC1CCCC1 | C11H16N2O2S
